US06313308B1
Benzenesulfonic acid, 1-methylethyl ester
Benzenesulfonyl chloride (50 g, 283 mmol) was added to a solution of 4-methylmorpholine (57 g, 2 equiv.) and isopropyl alcohol (66 g, 3.9 equiv.). After reaction completion (ca. 3 hours), 250 mL of methyl tert-butyl ether (MTBE) and 60 mL of 3M sulfuric acid were added. The rich MTBE layer was washed with aqueous sodium chloride solution. The rich MTBE solution was solvent exchanged into tetrahydrofuran solution. The rich tetrahydrofuran solution containing 56 g (96 M %, HPLC area % 97) of the title compound was used as is in the next step (Example 5).

reactant | Benzenesulfonyl chloride | 283 mmol, 50 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 4-methylmorpholine | 57 g, 2 equiv. | CN1CCOCC1 | C5H11NO
reactant | isopropyl alcohol | 66 g, 3.9 equiv. | C(C)(C)O | C3H8O
reactant | sulfuric acid | 3M, 60 mL | S(O)(O)(=O)=O | H2O4S
solvent | methyl tert-butyl ether | 250 mL | C(C)(C)(C)OC | C5H12O
product | Benzenesulfonic acid, 1-methylethyl ester | C1(=CC=CC=C1)S(=O)(=O)OC(C)C | C9H12O3S
